// Generated for: spectre
// Generated on: Apr 21 14:02:31 2026
// Design library name: ESE6680_PROJECT3
// Design cell name: opamp_test_with_clock
// Design view name: schematic
simulator lang=spectre
global 0
parameters W13 L13 W9 L9 W11 L11 Ch Cf W12 L12 W14 L14 W10 L10
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ESE6680_PROJECT3
// Cell name: inv
// View name: schematic
subckt inv IN OUT VDD
    N0 (OUT IN 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    P0 (OUT IN VDD VDD) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
ends inv
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: buffer
// View name: schematic
subckt buffer IN OUT VDD
    I1 (net5 OUT VDD) inv
    I0 (IN net5 VDD) inv
ends buffer
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: nand
// View name: schematic
subckt nand A B OUT VDD
    N1 (net9 B 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N0 (OUT A net9 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    P1 (OUT B VDD VDD) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    P0 (OUT A VDD VDD) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
ends nand
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: non_overlapping_clock
// View name: schematic
subckt non_overlapping_clock CLK VDD phi1 phi1\' phi2 phi2\'
    I25 (net028 phi1\' VDD) inv
    I27 (net051 phi2\' VDD) inv
    I159 (CLK net039 VDD) inv
    I29 (phi1 net011 VDD) inv
    I17 (net010 net013 VDD) inv
    I28 (phi2 net022 VDD) inv
    I14 (net039 net049 VDD) inv
    I155 (net035 net017 VDD) inv
    I176 (net037 phi1 VDD) buffer
    I164 (net030 phi2 VDD) buffer
    I175 (net013 net037 VDD) buffer
    I163 (net017 net030 VDD) buffer
    I83 (net022 net022 net051 VDD) nand
    I82 (net011 net011 net028 VDD) nand
    I15 (net039 net035 net010 VDD) nand
    I16 (net049 net010 net035 VDD) nand
ends non_overlapping_clock
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: opamp_project_1
// View name: schematic
subckt opamp_project_1 Gnd Output Vdd Vin\+ Vin\-
    M6 (Output net55 Gnd Gnd) ami06N w=60u l=1.65u as=9e-11 ad=9e-11 \
        ps=123.000000u pd=123.000000u m=1 region=sat
    M3 (net49 net49 Gnd Gnd) ami06N w=16.5u l=3u as=2.475e-11 ad=2.475e-11 \
        ps=36.0u pd=36.0u m=1 region=sat
    M4 (net55 net49 Gnd Gnd) ami06N w=16.5u l=3u as=2.475e-11 ad=2.475e-11 \
        ps=36.0u pd=36.0u m=1 region=sat
    Rc (net55 net59) resistor r=4.15K m=1
    Cc (net59 Output) capacitor c=1.1p m=1
    M7 (Output net48 Vdd Vdd) ami06P w=268.05u l=3u as=4.02075e-10 \
        ad=4.02075e-10 ps=539.1u pd=539.1u m=1 region=sat
    M8 (net48 net48 Vdd Vdd) ami06P w=43.95u l=3u as=6.5925e-11 \
        ad=6.5925e-11 ps=90.9u pd=90.9u m=1 region=sat
    M5 (net52 net48 Vdd Vdd) ami06P w=37.05u l=1.8u as=5.5575e-11 \
        ad=5.5575e-11 ps=77.1u pd=77.1u m=1 region=sat
    M1 (net49 Vin\- net52 net52) ami06P w=115.05u l=3u as=1.72575e-10 \
        ad=1.72575e-10 ps=233.1u pd=233.1u m=1 region=sat
    M2 (net55 Vin\+ net52 net52) ami06P w=115.05u l=3u as=1.72575e-10 \
        ad=1.72575e-10 ps=233.1u pd=233.1u m=1 region=sat
    I13 (net48 Gnd) isource type=dc dc=40u m=1
ends opamp_project_1
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: project_2_baseline_design
// View name: schematic
subckt project_2_baseline_design Output VDD Vin half_VDD phi1 phi1\' phi2 \
        phi2\'
    N2 (net016 phi1 Output 0) ami06N w=W13 l=L13 as=W13 * 2.5 * (600n) ad=W13 * 2.5 * (600n) \
         ps=(2 * W13) + (5 * (600n)) pd=(2 * W13) + (5 * (600n)) m=1 \
        region=sat
    N0 (Vin phi1 net02 0) ami06N w=W9 l=L9 as=W9 * 2.5 * (600n) ad=W9 * 2.5 * (600n) \
         ps=(2 * W9) + (5 * (600n)) pd=(2 * W9) + (5 * (600n)) m=1 \
        region=sat
    N1 (net02 phi2 half_VDD 0) ami06N w=W11 l=L11 as=W11 * 2.5 * (600n) ad=W11 * 2.5 * (600n) \
         ps=(2 * W11) + (5 * (600n)) pd=(2 * W11) + (5 * (600n)) m=1 \
        region=sat
    C7 (net02 net016) capacitor c=Ch m=1
    C3 (Output 0) capacitor c=1p m=1
    C8 (net016 Output) capacitor c=Cf m=1
    I40 (0 Output VDD net05 net016) opamp_project_1
    V9 (net05 0) vsource type=dc dc=2.5
    P2 (net02 phi2\' half_VDD VDD) ami06P w=W12 l=L12 as=W12 * 2.5 * (600n) \
         ad=W12 * 2.5 * (600n) ps=(2 * W12) + (5 * (600n)) pd=(2 * W12) + (5 * (600n)) \
         m=1 region=sat
    P0 (Output phi1\' net016 VDD) ami06P w=W14 l=L14 as=W14 * 2.5 * (600n) \
        ad=W14 * 2.5 * (600n) ps=(2 * W14) + (5 * (600n)) pd=(2 * W14) + (5 * (600n)) \
         m=1 region=sat
    P1 (net02 phi1\' Vin VDD) ami06P w=W10 l=L10 as=W10 * 2.5 * (600n) ad=W10 * 2.5 * (600n) \
         ps=(2 * W10) + (5 * (600n)) pd=(2 * W10) + (5 * (600n)) m=1 \
        region=sat
ends project_2_baseline_design
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: opamp_test_with_clock
// View name: schematic
I0 (net10 net3 phi1 phi1\' phi2 phi2\') non_overlapping_clock
I1 (Output net3 Vin net4 phi1 phi1\' phi2 phi2\') \
        project_2_baseline_design
V1 (net4 0) vsource type=dc dc=2.5
V0 (net3 0) vsource type=dc dc=5
V2 (net10 0) vsource type=pulse val0=0 val1=5 period=200n rise=10p \
        fall=10p width=90n
V6 (Vin 0) vsource type=sine sinedc=2.5 ampl=1.5 freq=500K
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=2u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
