// Generated for: spectre
// Generated on: Mar 19 14:17:15 2026
// Design library name: ESE_6680
// Design cell name: project_2
// Design view name: schematic
simulator lang=spectre
global 0
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ESE_6680
// Cell name: project_2
// View name: schematic
N0 (Vin Clk Vout Vout) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
C0 (Vout 0) capacitor c=1p m=1
V0 (Clk 0) vsource type=pulse dc=2.5 val0=0 val1=5 period=200n rise=1p \
        fall=1p width=100n
V1 (Vin 0) vsource type=sine sinedc=2.5 ampl=1.5 freq=500.0K
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
